US05631401
N-Methyl-N-(4-phenoxybenzyl)amine
4-Phenoxybenzaldehyde (10.0 g, 0.05 mol), excess methylamine and 1.5 g of 10% Pd/C in 200 mL of methanol were stirred under an atmosphere of hydrogen for 16 hours. After removal of the catalyst by filtration through Celite®, the filtrate was concentrated under reduced pressure to give the crude product as an oil. Chromatography on silica gel eluting with ethyl acetate gave the title compound in 80% yield.

reactant | 4-Phenoxybenzaldehyde | 0.05 mol, 10.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | methylamine | CN | CH5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | N-Methyl-N-(4-phenoxybenzyl)amine | 80% yield | CNCC1=CC=C(C=C1)OC1=CC=CC=C1 | C14H15NO
